US08431695B2
Preparation of 7-(8-acetyloctahydropyrazino[2,1-c][1,4]oxazin-3-yl)-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a stirred solution of 5-(2-benzyl-2H-indazol-6-yl)-7-(octahydropyrazino[2,1-c][1,4]oxazin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine (50 mg, 0.10 mmol), triethylamine (29 μL, 0.21 mmol), in DMF (1 mL) at 0° C., acetic anhydride (11 μL, 0.11 mmol) was added. The reaction was allowed to stir for 20 minutes while warming to rt. The mixture was partitioned between ethyl acetate (30 mL) and saturated aqueous K2CO3 solution (10 mL). The layers were separated and the organic phase was washed, dried (Na2SO4), and concentrated to dryness. The residue was triturated with Et2O to obtain 19 mg (35%) of the desired product. 1H-NMR (DMSO-d6) 8.53 (s, 1H), 7.91 (s, 1H), 7.78 (d, 1H), 7.57 (s, 1H), 7.35-7.28 (m, 5H), 7.10 (dd, 1H), 6.71 (s, 1H), 5.64 (s, 2H), 5.14 (dd, 1 H), 4.33-4.21 (m, 1H), 3.91-3.84 (m, 1H), 3.79-3.68 (m, 1H), 3.39-3.27 (m, 2H), 3.06-3.00 (m, 1H), 2.76-2.64 (m, 2H), 2.41-2.37 (m, 1H), 223-2.11 (m, 1H), 2.07-1.95 (m, 1H), 1.99 (s, 3H); LC-MS [M+H]+=523, RT=2.24 min.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-(octahydropyrazino[2,1-c][1,4]oxazin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.10 mmol, 50 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CN1C(CO2)CNCC1 | C27H28N8O
reactant | triethylamine | 0.21 mmol, 29 μL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.11 mmol, 11 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 7-(8-acetyloctahydropyrazino[2,1-c][1,4]oxazin-3-yl)-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 19 mg, 35% | C(C)(=O)N1CC2COC(CN2CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C29H30N8O2
